### PR TITLE
[Merged by Bors] - feat: rootSet characterization of Lie ideals and invariant submodules

### PR DESCRIPTION
**Pull request by jano-wol**
rootSet characterization of Lie ideals and invariant submodules
---
PR adds the following theorems:
  - `mem_rootSet_of_mem_rootSpan`: the rootSet of an ideal is full with respect to its rootSpan
  - `restr_eq_iSup_sl2SubmoduleOfRoot`: a Lie ideal decomposes as the sum of the sl₂-triples of its roots
  - `restr_invtSubmoduleToLieIdeal_eq_iSup`: the restriction of `invtSubmoduleToLieIdeal q` has the expected sl₂-triple form. Lifts `coe_invtSubmoduleToLieIdeal_eq_iSup` from Submodule to the more correct LieSubmodule level
  - `mem_rootSet_invtSubmoduleToLieIdeal`: `α ∈ rootSet(invtSubmoduleToLieIdeal q) ↔ root(α) ∈ q`

These results prepare the order isomorphism LieIdeal K L ≃o (rootSystem H).invtRootSubmodule.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/IsSimple.lean [hunk 1]
```diff
@@ -188,6 +188,38 @@ lemma restr_inf_cartan_eq_biSup_corootSubmodule (I : LieIdeal K L) :
   · simp only [Weight.IsNonZero, not_not] at hμ
     exact LinearMap.mem_ker.mpr (congr_fun hμ b)
 
+lemma mem_rootSet_of_mem_rootSpan (I : LieIdeal K L)
+    {α : H.root} (hα_span : (α : Dual K H) ∈ I.rootSpan) :
+    α ∈ I.rootSet := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/IsSimple.lean]: Let's upgrade this to:
```suggestion
@[simp]
lemma mem_rootSpan_iff (I : LieIdeal K L) {α : H.root} :
    (α : Dual K H) ∈ I.rootSpan ↔ α ∈ I.rootSet :=
```

File: Mathlib/Algebra/Lie/Weights/IsSimple.lean [hunk 2]
```diff
@@ -188,6 +188,38 @@ lemma restr_inf_cartan_eq_biSup_corootSubmodule (I : LieIdeal K L) :
...
+  have : I.rootSpan ≤ LinearMap.ker (Dual.eval K H (coroot (α : Weight K H L))) := by
+    rw [LieIdeal.rootSpan, Submodule.span_le]
+    rintro _ ⟨γ, hγ, rfl⟩
+    simp only [SetLike.mem_coe, LinearMap.mem_ker, Dual.eval_apply, rootSystem_root_apply]
+    exact I.rootSet_apply_coroot_eq_zero_of_notMem_rootSet hγ hα_not
+  have := LinearMap.mem_ker.mp (this hα_span)
+  simp only [Dual.eval_apply, Weight.toLinear_apply, root_apply_coroot hα_nz] at this
+  exact absurd this two_ne_zero
+
+lemma restr_eq_iSup_sl2SubmoduleOfRoot (I : LieIdeal K L) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/IsSimple.lean:204]: Total nitpick but since this iSup is "bounded" by the `α ∈ I.rootSet` predicate we should really name this:
```suggestion
lemma restr_eq_biSup_sl2SubmoduleOfRoot (I : LieIdeal K L) :
```
(admittedly we're not very consistent about this naming)

File: Mathlib/Algebra/Lie/Weights/IsSimple.lean [hunk 3]
```diff
@@ -433,6 +465,42 @@ noncomputable def invtSubmoduleToLieIdeal (q : Submodule K (Dual K H))
...
   rfl
 
+@[simp] lemma restr_invtSubmoduleToLieIdeal_eq_iSup (q : Submodule K (Dual K H))
+    (hq : ∀ i, q ∈ End.invtSubmodule ((rootSystem H).reflection i).toLinearMap) :
+    (invtSubmoduleToLieIdeal q hq).restr H =
+      ⨆ α : {α : Weight K H L // ↑α ∈ q ∧ α.IsNonZero}, sl2SubmoduleOfRoot α.2.2 := by
+  rw [← LieSubmodule.toSubmodule_inj, LieSubmodule.restr_toSubmodule,
+    coe_invtSubmoduleToLieIdeal_eq_iSup, LieSubmodule.iSup_toSubmodule]
+
+lemma mem_rootSet_invtSubmoduleToLieIdeal (q : Submodule K (Dual K H))
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/IsSimple.lean:474]: I propose that we drop the `simp` attribute on `LieIdeal.mem_rootSet` (up on line 58) and then this can be:
```suggestion
@[simp]
lemma mem_rootSet_invtSubmoduleToLieIdeal (q : Submodule K (Dual K H))
```
Even aside from the fact that dropping the `simp` on `LieIdeal.mem_rootSet` allows us to add `simp` here, I think that on reflection `LieIdeal.mem_rootSet` shouldn't have it anyway: I claim the fact that we've implemented `α ∈ I.rootSet` as the `α`-root space is contained in the Cartan subalgebra should be a somewhat-hidden implementation detail. After all the conceptually right way to think about this would be that the entire `sl2` associated to `α` is contained in the Cartan subalgebra.

**Review by ocfnash — APPROVED** [review]
Thanks, some minor suggestions but otherwise LGTM!

bors d+
